US06020345
Preparation of (3,4-dichlorophenyl)-(4-{[(6-fluoropyridin-2-ylmethyl)amino]-methyl}piperidin-1-yl)methanone (I-51)
0.29 g of 6-fluoropyridine-2-carbaldehyde (2.31 mmol) and 0.264 g of piperidin-4-ylmethylamine (2.31 mmol) are mixed in 20 ml of benzene. The solution is heated under reflux under a nitrogen atmosphere for 2 hours with removal of the water formed continuously. The solvent is evaporated off and the residue is taken up in 2 ml of tetrahydrofuran. The solution obtained is cooled to 0° C., 0.50 ml of triethylamine (3.50 mmol) is added successively and then 0.469 g of 3,4-dichlorobenzoyl chloride (2.24 mmol) diluted in 1 ml of tetrahydrofuran is added dropwise. The mixture is stirred for 2 hours at room temperature. 10 ml of methanol are added followed, in portions, by 0.25 g of potassium borohydride (4.62 mmol). After 4 hours at room temperature, the solvents are evaporated off, the residue is taken up in water and extracted with chloroform. The organic phase is washed with water, dried over magnesium sulfate, filtered and concentrated under vacuum. The title product is isolated by chromatography on a silica column (eluent: chloroform/methanol; 95:5). 0.40 g of a yellow solid is obtained.

reactant | 6-fluoropyridine-2-carbaldehyde | 2.31 mmol, 0.29 g | FC1=CC=CC(=N1)C=O | C6H4FNO
reactant | piperidin-4-ylmethylamine | 2.31 mmol, 0.264 g | N1CCC(CC1)CN | C6H14N2
reactant | triethylamine | 3.50 mmol, 0.50 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4-dichlorobenzoyl chloride | 2.24 mmol, 0.469 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | potassium borohydride | 4.62 mmol, 0.25 g | [BH4-].[K+]
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
solvent | water | O | H2O
product | (3,4-dichlorophenyl)-(4-{[(6-fluoropyridin-2-ylmethyl)amino]-methyl}piperidin-1-yl)methanone | ClC=1C=C(C=CC1Cl)C(=O)N1CCC(CC1)CNCC1=NC(=CC=C1)F | C19H20Cl2FN3O
